US06642395B1
Preparation of (S)-3-chlorostyrene Oxide
Into toluene (10 ml) were added (S)-2-(3-chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)ethyl methanesulfonate (3.0 g), p-toluenesulfonic acid monohydrate (1.7 g) and methanol (0.5 g), and the resulting mixture was:stirred at 50° C. for 1 hour. The reaction mixture was Washed with a saturated aqueous sodium hydrogen carbonate solution and then with a saturated aqueous sodium chloride solution. To the organic layer was added 20% NaOH (10 ml) and the resulting mixture was stirred vigorously at room temperature for 1 hour. The reaction mixture was subjected to layer separation, and the organic layer was washed with water, then with a saturated aqueous sodium chloride solution and dried with anhydrous magnesium sulfate. The desiccant was filtered off, then the solvent was distilled off, and the resulting oily substance was distilled under reduced pressure to obtain a colorless oily compound mentioned above (1.27 g, 91.7%). The optical purity of the product obtained was 99.9% e.e. as determined by HPLC.

reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | (S)-2-(3-chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)ethyl methanesulfonate | 3.0 g | CS(=O)(=O)OC[C@@H](OC1OCCCC1)C1=CC(=CC=C1)Cl | C14H19ClO5S
reactant | p-toluenesulfonic acid monohydrate | 1.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 0.5 g | CO | CH4O
product | (S)-3-chlorostyrene Oxide | ClC=1C=C([C@H]2CO2)C=CC1 | C8H7ClO
